US05968954
Step 1: 1-(2,3-dihydro[1,4]benzodioxin-5-yl)pyrrolidin-3-ol
10 g (66 mmol) of 5-amino-2,3-dihydro[1,4]benzodioxin, 7.65 ml of ω, ω'-dibromo-butan-2-ol and 18.25 g of K2CO3 in 125 ml of chlorobenzene are heated at reflux for 18 hours. After removal of the solvent by evaporation, the residue is taken up in methylene chloride and washed with water. Drying and evaporation yield 17.6 g of an oil which corresponds to the expected product.

reactant | 5-amino-2,3-dihydro[1,4]benzodioxin | 66 mmol, 10 g | NC1=CC=CC=2OCCOC21 | C8H9NO2
reactant | K2CO3 | 18.25 g | C(=O)([O-])[O-].[K+].[K+]
reactant | chlorobenzene | 125 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 1-(2,3-dihydro[1,4]benzodioxin-5-yl)pyrrolidin-3-ol | O1CCOC2=C1C=CC=C2N2CC(CC2)O | C12H15NO3
